US03962247
14.5 g. of N-(α-cyano-2,3,4-trimethoxybenzyl)piperazine was dissolved in 50 ml. of anhydrous diethyl ether and to the resultant solution was added 4 g. of pyridine. To the mixture was added dropwise 6 g. of ethyl chloroformate dissolved in 10 ml. of anhydrous diethyl ether over a period of about 30 minutes with ice cooling while the internal temperature was kept at 10° - 15°C. The mixture was further stirred at room temperature and filtered off to separate an insoluble matter. The filtrate was evaporated to give crude N-(α-cyano-2,3,4-trimethoxybenzyl)-N'-ethoxycarbonylpiperazine as an oily substance. This product was dissolved in toluene and the resultant solution was saturated with dry hydrochloric gas to separate crystal which was collected by filtration. Recrystallization from tetrahydrofuran-methanol afforded 14 g. of crystal having a melting point of 137.5° - 139.0°C.

reactant | N-(α-cyano-2,3,4-trimethoxybenzyl)piperazine | C(#N)C(C1=C(C(=C(C=C1)OC)OC)OC)N1CCNCC1 | C15H21N3O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(α-cyano-2,3,4-trimethoxybenzyl)-N'-ethoxycarbonylpiperazine | C(#N)C(C1=C(C(=C(C=C1)OC)OC)OC)N1CCN(CC1)C(=O)OCC | C18H25N3O5
